US20010027196A1
To a stirred solution of 200 mg (0.92 mmol) 2-amino-4-furan-2-yl-6-thioxo-1,6-dihydro-pyrimidine-5-carbonitrile in 10 ml ethanol were added 0.69 (1.84 mmol) sodium ethylate solution (2.67M in ethanol) and 117 mg (0.92 mmol) 2-(chloromethyl)pyridine hydrochloride and stirring continued for 16 hours at room temperature. The reaction mixture was then concentrated in vacuo and the residue partitioned between dichloromethane and water. The organic phase was dried over sodium sulfate and concentrated in vacuo. The residue was triturated in ether to afford 205 mg (72%) 2-amino-4-furan-2-yl-6-(pyridin-2-ylmethylsulfanyl)-pyrimidine-5-carbonitrile as a white crystalline solid. ES-MS m/e (%): 310 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-thioxo-1,6-dihydro-pyrimidine-5-carbonitrile | 0.92 mmol, 200 mg | NC=1NC(C(=C(N1)C=1OC=CC1)C#N)=S | C9H6N4OS
reactant | sodium ethylate solution | 2.67M | CC[O-].[Na+]
reactant | 2-(chloromethyl)pyridine hydrochloride | 0.92 mmol, 117 mg | Cl.ClCC1=NC=CC=C1
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-amino-4-furan-2-yl-6-(pyridin-2-ylmethylsulfanyl)-pyrimidine-5-carbonitrile | 205 mg, 72% | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)SCC1=NC=CC=C1 | C15H11N5OS
